US04598090
3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, methyl ester (3 g) was hydrolized by treatment with 1% KOH in 95% ethanol (59 ml) at reflux temperature for 15 minutes. After cooling, acidification with HCl and dilution with ice water, the precipitate was filtered and washed with water. Crystallization from dimethylformamide-ethanol gave 2.4 g of 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, m.p. 296°-298° C., NMR (CF3COOD) δppm: 2.59 (s) (3H, --CH3), 3.40 (bs) (4H, C-1 and C-2 protons), 7.38-7.87 (m) (4H, phenyl protons), 8.10 (d) (1H, C-5 proton), 8.30 (bs) (1H, =CH--), 8.80 (dd) (1H, C-6 proton), 9.30 (d) (1H, C-8 proton).

reactant | 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid, methyl ester | 3 g | CC1=C(C=C2CCC3=C2OC2=C(C3=O)C=C(C=C2)C(=O)OC)C=CC=C1 | C22H18O4
reactant | KOH | [OH-].[K+]
solvent | ethanol | 59 ml | C(C)O | C2H6O
product | 3-(2-methyl-benzylidene)-1,2,3,9-tetrahydro-9-oxo-cyclopenta[b][1]benzopyran-7-carboxylic acid | 2.4 g | CC1=C(C=C2CCC3=C2OC2=C(C3=O)C=C(C=C2)C(=O)O)C=CC=C1 | C21H16O4
